US08471005B2
Into a sealed tube was added (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine (0.120 g, 0.310 mmol), Sodium tert-butoxide (89.5 mg, 0.931 mmol), Copper(I) iodide (4 mg, 0.02 mmol), 1,2-Ethanediol (34.7 uL, 0.623 mmol), N,N-Dimethylformamide (4.4 mL, 56 mmol), and finally Benzenethiol (32.1 uL, 0.313 mmol). The reaction was heated at 120° C. overnight. An HPLC showed 40% starting material remaining The reaction was partitioned with water and DCM. The organic was separated, washed with Brine and dried over Na2SO4. The solid was filtered and washed with DCM. The Solvent was removed under vacuum. The desired product was purified via ISCO column chromatography with DCM and methanol as eluant (0 to 8% methanol). The collected fractions afforded [4-(4-Methyl-piperazin-1-yl)-phenyl]-(7-phenylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine as a yellow solid (35 mg, 27%). MP 155-157° C. LCMS (E/I+) 417.13 (M+H). NMR 1H (DSMO-d6)-9.33 (s, 1H), 8.97 (s, 1H), 7.43 (d, 2H, J=9.04 Hz), 7.30 (t, 2H, J=7.57 Hz), 7.18 (t, 1H, J=7.33 Hz), 7.13 (d, 2H, J=8.33 Hz), 7.01 (d, 1H, J=4.60 Hz), 6.92 (d, 1H, J=4.60 Hz), 6.74 (d, 2H, J=9.09 Hz), 3.03 (t, 4H, J=5.96 Hz), 2.44 (t, 4H, J=5.21 Hz), 2.23 (s, 3H).

reactant | (7-Bromo-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | 0.310 mmol, 0.120 g | BrC1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCN(CC2)C | C17H19BrN6
reactant | Sodium tert-butoxide | 0.931 mmol, 89.5 mg | CC(C)([O-])C.[Na+]
reactant | 1,2-Ethanediol | 0.623 mmol, 34.7 uL | C(CO)O | C2H6O2
reactant | N,N-Dimethylformamide | 56 mmol, 4.4 mL | CN(C=O)C | C3H7NO
reactant | Benzenethiol | 0.313 mmol, 32.1 uL | C1(=CC=CC=C1)S | C6H6S
catalyst | Copper(I) iodide | 0.02 mmol, 4 mg | [Cu]I
product | [4-(4-Methyl-piperazin-1-yl)-phenyl]-(7-phenylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-amine | 35 mg, 27% | CN1CCN(CC1)C1=CC=C(C=C1)NC1=NN2C(C=N1)=CC=C2SC2=CC=CC=C2 | C23H24N6S
